US07834001B2
tert-Butyl-dimethyl-o-tolyloxy-silane
tert-Butyldimethylsilyl chloride (83.6 g, 0.55 mol) and imidazole (78.69 g, 1.15 mol) were added to a solution of o-cresol (50 g, 0.46 mol) in dry DMF (200 mL). The reaction mixture was stirred for 3 h, treated with a 5% aqueous NaHCO3 solution, extracted with petroleum ether and concentrated to obtain the title compound as an oil. Yield: 102 g, (100%); 1H NMR (CDCl3): δ 0.20 (s, 6H, 2CH3), 1.0 (s, 9H, 3CH3), 2.2 (s, 3H, CH3), 6.75 (d, 1H, Ar), 6.85 (q, 1H, Ar), 7.18 (q, 1H, Ar), 7.25 (d, 1H, Ar).

reactant | tert-Butyldimethylsilyl chloride | 0.55 mol, 83.6 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 1.15 mol, 78.69 g | N1C=NC=C1 | C3H4N2
reactant | o-cresol | 0.46 mol, 50 g | C1(=CC=CC=C1O)C | C7H8O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | tert-Butyl-dimethyl-o-tolyloxy-silane | C(C)(C)(C)[Si](OC1=C(C=CC=C1)C)(C)C | C13H22OSi
